US06121201
N-[4-Chloro-2-fluoro-5-(3-trifluoromethyl-2-pyridyloxy)phenyl]-2-ethylaminoacetamide.
A solution of N-[4-chloro-2-fluoro-5-(3-trifluoromethyl-2-pyridyloxy)phenyl]-2-chloroacetamide (1.4 g) and 70% ethylamine (5 ml) in ethanol (25 ml) was heated at reflux for 3 hours and evaporated to dryness. The residue was processed to give a yellow solid (1.0 g). 1H NMR (CDCl3, TMS): 1.16(3H, t, J=7 Hz), 2.72(2H, q, J=7 Hz), 3.39(2H, s), 7.10(1H, dd, J=6,8 Hz), 7.26(1H, d, J=8 Hz), 8.00(1H, m), 8.24(1H, m), 8.45(1H, d, J=8 Hz), 9.86(1H, s).

reactant | N-[4-chloro-2-fluoro-5-(3-trifluoromethyl-2-pyridyloxy)phenyl]-2-chloroacetamide | 1.4 g | ClC1=CC(=C(C=C1OC1=NC=CC=C1C(F)(F)F)NC(CCl)=O)F | C14H8Cl2F4N2O2
reactant | ethylamine | 5 ml | C(C)N | C2H7N
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | N-[4-Chloro-2-fluoro-5-(3-trifluoromethyl-2-pyridyloxy)phenyl]-2-ethylaminoacetamide | 1.0 g | ClC1=CC(=C(C=C1OC1=NC=CC=C1C(F)(F)F)NC(CNCC)=O)F | C16H14ClF4N3O2
